### PR TITLE
[Merged by Bors] - chore(Analysis): fix whitespace

### PR DESCRIPTION
**Pull request by harahu**
Extracted from https://github.com/leanprover-community/mathlib4/pull/30658. Found by extending the commandStart linter to proof bodies.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Review by grunweg — COMMENTED** [review]
Thanks for the PR! I've looked through about 1/3 of the diff. I agree with many changes (in particular removing double space or inserting clearly missing); let me clarify around "space before unary minus" and "spacing around continuous multilinear maps" internally and get back to you.

File: Mathlib/Analysis/SpecialFunctions/CompareExp.lean [hunk 1]
```diff
@@ -101,7 +101,7 @@ theorem isLittleO_im_pow_exp_re (hl : IsExpCmpFilter l) (n : ℕ) :
     calc
       (fun z : ℂ ↦ (z.im ^ n) ^ 2) = (fun z ↦ z.im ^ (2 * n)) := by simp only [pow_mul']
       _ =O[l] fun z ↦ Real.exp z.re := hl.isBigO_im_pow_re _
-      _ =     fun z ↦ (Real.exp z.re) ^ 1 := by simp only [pow_one]
+      _ = fun z ↦ (Real.exp z.re) ^ 1 := by simp only [pow_one]
```
Comment (grunweg) [inline Mathlib/Analysis/SpecialFunctions/CompareExp.lean]: Can you revert this one for now, please?

File: Mathlib/Analysis/Normed/Algebra/Spectrum.lean [hunk 2]
```diff
@@ -301,8 +301,8 @@ theorem resolvent_isBigO_inv (a : A) : resolvent a =O[cobounded 𝕜] Inv.inv :=
       filter_upwards [isBounded_singleton (x := 0)] with z hz
       lift z to 𝕜ˣ using Ne.isUnit hz
       simpa [Units.smul_def] using congr(z⁻¹ • $(units_smul_resolvent_self (r := z) (a := a)))
-    _ =O[cobounded 𝕜] (· ⁻¹) := .of_norm_right <| by
-      simpa using (isBigO_refl (· ⁻¹) (cobounded 𝕜)).norm_right.smul h
+    _ =O[cobounded 𝕜] (·⁻¹) := .of_norm_right <| by
```
Comment (grunweg) [inline Mathlib/Analysis/Normed/Algebra/Spectrum.lean]: Can you revert this change, please?

File: Mathlib/Analysis/Calculus/LineDeriv/Basic.lean [hunk 3]
```diff
@@ -547,7 +547,7 @@ theorem lineDeriv_smul {c : 𝕜} : lineDeriv 𝕜 f x (c • v) = c • lineDer
       simpa [lineDifferentiableAt_smul_iff hc] using H
     simp [lineDeriv_zero_of_not_lineDifferentiableAt, H, H']
 
-theorem lineDeriv_neg : lineDeriv 𝕜 f x (-v) = - lineDeriv 𝕜 f x v := by
+theorem lineDeriv_neg : lineDeriv 𝕜 f x (-v) = -lineDeriv 𝕜 f x v := by
```
Comment (grunweg) [inline Mathlib/Analysis/Calculus/LineDeriv/Basic.lean]: Revert, please

File: Mathlib/Analysis/CStarAlgebra/ContinuousFunctionalCalculus/Unital.lean [hunk 4]
```diff
@@ -875,13 +875,13 @@ lemma cfc_neg : cfc (fun x ↦ - (f x)) a = - (cfc f a) := by
     · rw [cfc_apply_of_not_continuousOn a hf, cfc_apply_of_not_continuousOn, neg_zero]
       exact fun hf_neg ↦ hf <| by simpa using hf_neg.neg
 
-lemma cfc_neg_id (ha : p a := by cfc_tac) : cfc (- · : R → R) a = -a := by
+lemma cfc_neg_id (ha : p a := by cfc_tac) : cfc (-· : R → R) a = -a := by
```
Comment (grunweg) [inline Mathlib/Analysis/CStarAlgebra/ContinuousFunctionalCalculus/Unital.lean]: Revert, please

File: Mathlib/Analysis/CStarAlgebra/ContinuousFunctionalCalculus/NonUnital.lean [hunk 5]
```diff
@@ -579,14 +579,14 @@ lemma cfcₙ_neg : cfcₙ (fun x ↦ - (f x)) a = - (cfcₙ f a) := by
       exact (h0 <| neg_eq_zero.mp ·)
 
 lemma cfcₙ_neg_id (ha : p a := by cfc_tac) :
-    cfcₙ (- · : R → R) a = -a := by
+    cfcₙ (-· : R → R) a = -a := by
```
Comment (grunweg) [inline Mathlib/Analysis/CStarAlgebra/ContinuousFunctionalCalculus/NonUnital.lean]: Revert, please (also below and perhaps above)

File: Mathlib/Analysis/Asymptotics/LinearGrowth.lean [hunk 6]
```diff
@@ -249,12 +249,12 @@ lemma linearGrowthSup_add_le (h : linearGrowthSup u ≠ ⊥ ∨ linearGrowthSup
   refine (limsup_add_le h h').trans_eq' (limsup_congr (Eventually.of_forall fun n ↦ ?_))
   rw [Pi.add_apply, Pi.add_apply, add_div_of_nonneg_right n.cast_nonneg']
 
-lemma linearGrowthInf_neg : linearGrowthInf (- u) = - linearGrowthSup u := by
+lemma linearGrowthInf_neg : linearGrowthInf (-u) = -linearGrowthSup u := by
```
Comment (grunweg) [inline Mathlib/Analysis/Asymptotics/LinearGrowth.lean]: Can you revert the second of these changes, please? Also below

File: Mathlib/Analysis/Asymptotics/ExpGrowth.lean [hunk 7]
```diff
@@ -234,12 +234,12 @@ lemma expGrowthSup_mul_le (h : expGrowthSup u ≠ ⊥ ∨ expGrowthSup v ≠ ⊤
   refine (limsup_add_le h h').trans_eq' (limsup_congr (Eventually.of_forall fun n ↦ ?_))
   rw [Pi.add_apply, Pi.mul_apply, log_mul_add, add_div_of_nonneg_right n.cast_nonneg']
 
-lemma expGrowthInf_inv : expGrowthInf u⁻¹ = - expGrowthSup u := by
+lemma expGrowthInf_inv : expGrowthInf u⁻¹ = -expGrowthSup u := by
```
Comment (grunweg) [inline Mathlib/Analysis/Asymptotics/ExpGrowth.lean]: Revert, please

**Review by grunweg — COMMENTED** [review]
Some more comments - I'm slowly making my way through the diff.

File: Mathlib/Analysis/SpecialFunctions/CompareExp.lean (hunk 1 above)
Comment (harahu) [reply Mathlib/Analysis/SpecialFunctions/CompareExp.lean]: Done

File: Mathlib/Analysis/Calculus/LineDeriv/Basic.lean (hunk 3 above)
Comment (harahu) [reply Mathlib/Analysis/Calculus/LineDeriv/Basic.lean]: Done

File: Mathlib/Analysis/CStarAlgebra/ContinuousFunctionalCalculus/Unital.lean (hunk 4 above)
Comment (harahu) [reply Mathlib/Analysis/CStarAlgebra/ContinuousFunctionalCalculus/Unital.lean]: Done

File: Mathlib/Analysis/CStarAlgebra/ContinuousFunctionalCalculus/NonUnital.lean (hunk 5 above)
Comment (harahu) [reply Mathlib/Analysis/CStarAlgebra/ContinuousFunctionalCalculus/NonUnital.lean]: Done

File: Mathlib/Analysis/Asymptotics/LinearGrowth.lean (hunk 6 above)
Comment (harahu) [reply Mathlib/Analysis/Asymptotics/LinearGrowth.lean]: Done

File: Mathlib/Analysis/Asymptotics/ExpGrowth.lean (hunk 7 above)
Comment (harahu) [reply Mathlib/Analysis/Asymptotics/ExpGrowth.lean]: Done

**Comment by harahu** [comment]
-awaiting-author

File: Mathlib/Analysis/Normed/Algebra/Spectrum.lean (hunk 2 above)
Comment (harahu) [reply Mathlib/Analysis/Normed/Algebra/Spectrum.lean]: Done

File: Mathlib/Analysis/Normed/Group/Tannery.lean [hunk 8]
```diff
@@ -65,8 +65,8 @@ lemma tendsto_tsum_of_dominated_convergence {α β G : Type*} {𝓕 : Filter α}
     classical exact Eventually.exists <| hS _ (by positivity)
   have h1 : ∑' (k : (Tᶜ : Set β)), bound k < ε / 3 := by
     calc _ ≤ ‖∑' (k : (Tᶜ : Set β)), bound k‖ := Real.le_norm_self _
-         _ = ‖S - ∑ b ∈ T, bound b‖          := congrArg _ ?_
-         _ < ε / 3                            := by rwa [dist_eq_norm, norm_sub_rev] at hT
+         _ = ‖S - ∑ b ∈ T, bound b‖ := congrArg _ ?_
+         _ < ε / 3 := by rwa [dist_eq_norm, norm_sub_rev] at hT
```
Comment (j-loreaux) [inline Mathlib/Analysis/Normed/Group/Tannery.lean]: @harahu, this is a stylistic preference (i.e., putting the `:=` so that they line up vertically). Can you please revert this?

File: Mathlib/Analysis/RCLike/Basic.lean [hunk 9]
```diff
@@ -362,7 +362,7 @@ theorem is_real_TFAE (z : K) :
 theorem conj_eq_iff_real {z : K} : conj z = z ↔ ∃ r : ℝ, z = (r : K) :=
   calc
     _ ↔ ∃ r : ℝ, (r : K) = z := (is_real_TFAE z).out 0 1
-    _ ↔ _                    := by simp only [eq_comm]
+    _ ↔ _ := by simp only [eq_comm]
```
Comment (j-loreaux) [inline Mathlib/Analysis/RCLike/Basic.lean]: likewise

File: Mathlib/Analysis/SpecialFunctions/Trigonometric/Chebyshev/Basic.lean [hunk 10]
```diff
@@ -103,20 +103,20 @@ value `cosh (n * θ)`. -/
...
 theorem T_complex_cosh (n : ℤ) : (T ℂ n).eval (cosh θ) = cosh (n * θ) := calc
   (T ℂ n).eval (cosh θ)
-  _ = (T ℂ n).eval (cos (θ * I))        := by rw [cos_mul_I]
-  _ = cos (n * (θ * I))                 := T_complex_cos (θ * I) n
-  _ = cos (n * θ * I)                   := by rw [mul_assoc]
-  _ = cosh (n * θ)                      := cos_mul_I (n * θ)
+  _ = (T ℂ n).eval (cos (θ * I)) := by rw [cos_mul_I]
+  _ = cos (n * (θ * I)) := T_complex_cos (θ * I) n
+  _ = cos (n * θ * I) := by rw [mul_assoc]
+  _ = cosh (n * θ) := cos_mul_I (n * θ)
```
Comment (j-loreaux) [inline Mathlib/Analysis/SpecialFunctions/Trigonometric/Chebyshev/Basic.lean]: and here

File: Mathlib/Analysis/SpecialFunctions/Trigonometric/Chebyshev/Basic.lean [hunk 11]
```diff
@@ -103,20 +103,20 @@ value `cosh (n * θ)`. -/
...
 theorem U_complex_cosh (n : ℤ) : (U ℂ n).eval (cosh θ) * sinh θ = sinh ((n + 1) * θ) := calc
   (U ℂ n).eval (cosh θ) * sinh θ
-  _ = (U ℂ n).eval (cos (θ * I)) * sin (θ * I) * (-I)   := by simp [cos_mul_I, sin_mul_I, mul_assoc]
-  _ = sin ((n + 1) * (θ * I)) * (-I)                    := by rw [U_complex_cos]
-  _ = sin ((n + 1) * θ * I) * (-I)                      := by rw [mul_assoc]
-  _ = sinh ((n + 1) * θ)                                := by
+  _ = (U ℂ n).eval (cos (θ * I)) * sin (θ * I) * (-I) := by simp [cos_mul_I, sin_mul_I, mul_assoc]
+  _ = sin ((n + 1) * (θ * I)) * (-I) := by rw [U_complex_cos]
+  _ = sin ((n + 1) * θ * I) * (-I) := by rw [mul_assoc]
+  _ = sinh ((n + 1) * θ) := by
```
Comment (j-loreaux) [inline Mathlib/Analysis/SpecialFunctions/Trigonometric/Chebyshev/Basic.lean]: and here

**Review by j-loreaux — COMMENTED** [review]
LGTM other than these.

bors d+

File: Mathlib/Analysis/Normed/Group/Tannery.lean (hunk 8 above)
Comment (harahu) [reply Mathlib/Analysis/Normed/Group/Tannery.lean]: Thanks for spotting this. Reverted.

File: Mathlib/Analysis/SpecialFunctions/Trigonometric/Chebyshev/Basic.lean (hunk 10 above)
Comment (harahu) [reply Mathlib/Analysis/SpecialFunctions/Trigonometric/Chebyshev/Basic.lean]: Thanks for spotting this. Reverted.

File: Mathlib/Analysis/RCLike/Basic.lean (hunk 9 above)
Comment (harahu) [reply Mathlib/Analysis/RCLike/Basic.lean]: Thanks for spotting this. Reverted.

File: Mathlib/Analysis/SpecialFunctions/Trigonometric/Chebyshev/Basic.lean (hunk 11 above)
Comment (harahu) [reply Mathlib/Analysis/SpecialFunctions/Trigonometric/Chebyshev/Basic.lean]: Thanks for spotting this. Reverted.
